* probe: IPW65R045C7_L1 with deck-level .param TEMP
.param TEMP=25
.include "../models/infineon_c7_650v_spice.lib"
Vd d 0 400
Vg g 0 0
Xdut d g 0 IPW65R045C7_L1
.op
.control
run
print v(d) v(g) i(vd)
.endc
.end
